US08912208B2
B. 2,2-Dimethyl-4-oxo-4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-butyric acid
To a microwave vial is added 4-(4-bromophenyl)-2,2-dimethyl-4-oxo-butyric acid (150 mg, 0.526 mmol), bis(pinacolato)diboron (160 mg, 0.631 mmol), KOAc (155 mg, 1.58 mmol) and PdCl2dppf CH2Cl2(13 mg, 0.015 mmol). Then DME (2 mL) is added and the mixture is sparged with nitrogen for 2 min. The vial is then sealed and heated in a microwave at 120° C. for 20 min. The reaction mixture is then used directly in the next step: (M+H)+ 333.1.

reactant | 4-(4-bromophenyl)-2,2-dimethyl-4-oxo-butyric acid | 0.526 mmol, 150 mg | BrC1=CC=C(C=C1)C(CC(C(=O)O)(C)C)=O | C12H13BrO3
reactant | bis(pinacolato)diboron | 0.631 mmol, 160 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 1.58 mmol, 155 mg | CC(=O)[O-].[K+]
solvent | DME | 2 mL | COCCOC | C4H10O2
product | 2,2-Dimethyl-4-oxo-4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-butyric acid | CC(C(=O)O)(CC(C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O)C | C18H25BO5
